US05703249
4-Bromomethyl-9-phenyl-3,5,8,10-tetraoxabicyclo[5.3.0]decane was prepared in a similar way to 4-bromomethyl-9,9-dimethyl-3,5,8, 10-tetraoxabicyclo[5.3.0]decane from 64.7 g of 2-bromomethyl-5,6-dihydroxy- 1,3-dioxepane (285 mmol) and 187.0 g of benzaldehyde (1760 mmol) in chloroform. The reaction time was 8 days, a fresh spatula tip of toluenesulphonic acid being added every day.

reactant | 4-bromomethyl-9,9-dimethyl-3,5,8, 10-tetraoxabicyclo[5.3.0]decane | BrCC1OCC2OC(OC2CO1)(C)C | C9H15BrO4
reactant | 2-bromomethyl-5,6-dihydroxy- 1,3-dioxepane | 285 mmol, 64.7 g | BrCC1OCC(C(CO1)O)O | C6H11BrO4
reactant | benzaldehyde | 1760 mmol, 187.0 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | toluenesulphonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromomethyl-9-phenyl-3,5,8,10-tetraoxabicyclo[5.3.0]decane | BrCC1OCC2OC(OC2CO1)C1=CC=CC=C1 | C13H15BrO4
